US05102905
Tetrabutylammonium borohydride (3.85 g, 15 mmol) was added to a solution of 1-acetyl-5-(nitromethylsulphonyl)indoline (1.45 g, 5 mmol) in dichloromethane (30 ml), and the mixture was stirred at reflux for 18 hours. The solvent was removed by evaporation, 2 M hydrochloric acid (30 ml) was added, and the mixture was heated at reflux for 20 minutes. The solution was then poured into sufficient of an ice-cold saturated solution of sodium hydrogen carbonate to adjust the mixture to pH 6. The mixture was then extracted with dichloromethane, the combined extracts were dried (MgSO4), and the solvent was removed by evaporation. The resultant yellow oil was purified by flash chromatography on silica (Merck kieselgel Art. 7736), eluting with dichloromethane, to give 1-ethyl-5-(nitromethylsulphonyl)indoline as a solid, m.p. 122° C.; microanalysis, found: C,49.3; H,5.1; N,10.4%; C11H14N2O4S requires: C,48.9; H,5.2; N,10.4%.

reactant | Tetrabutylammonium borohydride | 15 mmol, 3.85 g | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-acetyl-5-(nitromethylsulphonyl)indoline | 5 mmol, 1.45 g | C(C)(=O)N1CCC2=CC(=CC=C12)S(=O)(=O)C[N+](=O)[O-] | C11H12N2O5S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-ethyl-5-(nitromethylsulphonyl)indoline | C(C)N1CCC2=CC(=CC=C12)S(=O)(=O)C[N+](=O)[O-] | C11H14N2O4S
